US07157488B2
3-Bromodibenzofuran
Combine N-dibenzofuran-3-ylamine (2.0 g, 10.8 mmol), water (20 ml), and conc. hydrobromic acid (6 ml). Cool to 0° C. Add a solution of sodium nitrite (0.7 g, 10.8 mmol) in water (16 ml). After 15 minutes add the mixture above to a mixture of copper bromide (1.7 g, 12.3 mmol) in water (9.2 ml) and hydrobromic acid (4 ml). Warm to ambient temperature. After 18 hours, add water and extract with dichloromethane. Combine the organic layers and wash sequentially with distilled water and brine and then dry (Na2SO4), filter, and concentrate to give a residue. Chromatograph the residue eluting with 8:2 hexane:EtOAc to give the title compound.

reactant | N-dibenzofuran-3-ylamine | 10.8 mmol, 2.0 g | C1=CC(=CC=2OC3=C(C21)C=CC=C3)N | C12H9NO
reactant | sodium nitrite | 10.8 mmol, 0.7 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 4 ml | Br | BrH
reactant | hydrobromic acid | 6 ml | Br | BrH
solvent | water | 16 ml | O | H2O
solvent | water | 9.2 ml | O | H2O
catalyst | copper bromide | 12.3 mmol, 1.7 g | [Cu](Br)Br
solvent | water | 20 ml | O | H2O
product | 3-Bromodibenzofuran | BrC=1C=CC2=C(OC3=C2C=CC=C3)C1 | C12H7BrO
